US20010006969A1
4-Allylamino-7-bromo-2-chlorothieno[3,2-d]pyrimidine
To 5 ml of a solution of 426 mg (1.5 mmol) of 7-bromo-2,4-dichlorothieno[3,2-d]pyrimidine in DMF was added 188 mg (3.3 mmol) of allylamine under ice cooling. The reaction mixture was stirred at the same temperature for one hour and then allowed to resume room temperature, followed by stirring for further 1 hours. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=¼) to give 359 mg (yield: 78.6%) of the title compound.

reactant | 7-bromo-2,4-dichlorothieno[3,2-d]pyrimidine | 1.5 mmol, 426 mg | BrC1=CSC2=C1N=C(N=C2Cl)Cl | C6HBrCl2N2S
reactant | allylamine | 3.3 mmol, 188 mg | C(C=C)N | C3H7N
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Allylamino-7-bromo-2-chlorothieno[3,2-d]pyrimidine | 359 mg, yield: 78.6% | C(C=C)NC=1C2=C(N=C(N1)Cl)C(=CS2)Br | C9H7BrClN3S
